US03974168
4.1 g of 5H-[1]benzopyrano[2,3-b]pyridin-7-yl-acetone is dissolved in a solution of 0.44 g of metallic sodium in 20 ml of absolute isopropyl alcohol by warming to 50°-60°C. The solution is water-cooled, 2.3 g of 2-dimethylaminoethyl chloride is added, and the mixture is stirred under reflux for 1 hour. The reaction mixture is concentrated, chloroform and water are added to the residue, and the mixture is shaken. The chloroform layer is separated and extracted with dilute hydrochloric acid, and the extract is neutralized with 10% sodium hydroxide and then extracted with chloroform. The chloroform extract is washed with water, dried over anhydrous magnesium sulfate and concentrated to give 3 g of crude 3-(5H-[1]benzopyrano[2,3-b]-pyridin-7-yl)-5-dimethylamino-2-pentanone as a pale yellowish brown transparent oil. The product is treated with maleic acid in acetone in a conventional manner, and the crystalline precipitate is recrystallized from isopropyl alcohol to give 3-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-5-dimethylamino-2-pentanone maleate as white needles melting at 145°-146°C.

reactant | 5H-[1]benzopyrano[2,3-b]pyridin-7-yl-acetone | 4.1 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)CC(C)=O | C15H13NO2
reactant | water | O | H2O
reactant | 2-dimethylaminoethyl chloride | 2.3 g | CN(CCCl)C | C4H10ClN
solvent | sodium | 0.44 g | [Na] | Na
solvent | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | 3-(5H-[1]benzopyrano[2,3-b]-pyridin-7-yl)-5-dimethylamino-2-pentanone | 3 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(C)=O)CCN(C)C | C19H22N2O2
